US06168728A
The mixture of 2-fluoro-4-iodotoluene (0.05 mol), 3-methyl-3-hydroxy-1-butyne (0.06 mol), tetrakis (triphenylphosphonium) palladium (0) 0.35 g, copper iodide 50 mg, and diethylamine 100 ml was refluxed for 5.5 hours. Diethylamine was distilled away under reduced pressure, the residue was extracted with diethylether, and the extract was washed with water. From the extract, diethylether was distilled away, the residue was purified by column chromatography (elution liquid: heptane-ethyl acetate) to obtain colorless oily 2-fluoro-4-(3-methyl-3-hydroxy-1-butynyl)toluene (0.035 mol).

reactant | 2-fluoro-4-iodotoluene | 0.05 mol | FC1=C(C=CC(=C1)I)C | C7H6FI
reactant | 3-methyl-3-hydroxy-1-butyne | 0.06 mol | CC(C#C)(C)O | C5H8O
catalyst | tetrakis (triphenylphosphonium) palladium (0) | 0.35 g | [Pd].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper iodide | 50 mg | [Cu](I)I
solvent | diethylamine | 100 ml | C(C)NCC | C4H11N
product | 2-fluoro-4-(3-methyl-3-hydroxy-1-butynyl)toluene | 0.035 mol | FC1=C(C=CC(=C1)C#CC(C)(O)C)C | C12H13FO
